US05817669
Trans-3-amino-1-benzyl-4-methylpyrrolidine (19 g) was dissolved in methylene chloride (200 ml), and, to the resulting solution, a solution of di-t-butyl dicarbonate (22.9 g) in methylene chloride (20 ml) was added under ice cooling. The resultant mixture was stirred at room temperature for one hour. Then, this reaction solution was concentrated under reduced pressure to give trans-1-benzyl-3-(t-butoxycarbonylamino)-4-methylpyrrolidine (28.2 g)

reactant | Trans-3-amino-1-benzyl-4-methylpyrrolidine | 19 g | N[C@@H]1CN(C[C@H]1C)CC1=CC=CC=C1 | C12H18N2
reactant | di-t-butyl dicarbonate | 22.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | trans-1-benzyl-3-(t-butoxycarbonylamino)-4-methylpyrrolidine | 28.2 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C)NC(=O)OC(C)(C)C | C17H26N2O2
